US08455491B2
Step 4.3. 2-bromo-1-(4-fluorophenyl)-2-pyridazin-4-ylethanone
0.70 g (5.2 mmol) of sodium acetate is added to a solution of 1.02 g (4.70 mmol) of 1-(4-fluorophenyl)-2-pyridazin-4-ylethanone in 20 ml of acetic acid and then 0.26 ml (5.2 mmol) of bromine in solution in a few ml of acetic acid is added dropwise (slight exotherm). After 30 minutes at ambient temperature, the reaction medium is cooled and 60 ml of water are added. The product is extracted with diethyl ether. The cooled organic phase is washed with an aqueous solution of sodium hydrogen carbonate, dried over sodium sulfate and filtered. This solution (approximately 50 ml) is used rapidly, as it is, in the rest of the synthesis.

reactant | sodium acetate | 5.2 mmol, 0.70 g | C(C)(=O)[O-].[Na+]
reactant | 1-(4-fluorophenyl)-2-pyridazin-4-ylethanone | 4.70 mmol, 1.02 g | FC1=CC=C(C=C1)C(CC1=CN=NC=C1)=O | C12H9FN2O
reactant | bromine | 5.2 mmol, 0.26 ml | BrBr | Br2
reactant | water | 60 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | ml | C(C)(=O)O | C2H4O2
product | 2-bromo-1-(4-fluorophenyl)-2-pyridazin-4-ylethanone | BrC(C(=O)C1=CC=C(C=C1)F)C1=CN=NC=C1 | C12H8BrFN2O
